US04147786
The starting material is prepared as follows: The solution of 94.5 g of 1-benzyl-4-piperidone and 46 g of methoxyammonium chloride in 600 ml of ethanol-pyridine (1:1) is refluxed overnight and evaporated. The residue is dissolved in water, the solution made basic with 12.5% aqueous sodium hydroxide and extracted with diethyl ether. The extract is washed with water and saturated aqueous sodium hydroxide, dried and evaporated, to yield the 1-benzyl-4-methoxyiminopiperidine.

reactant | 1-benzyl-4-piperidone | 94.5 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | methoxyammonium chloride | 46 g | [Cl-].CO[NH3+]
product | 1-benzyl-4-methoxyiminopiperidine | C(C1=CC=CC=C1)N1CCC(CC1)=NOC | C13H18N2O
